US03941828
4-Methyl-2-chloro-2-(pent-2-ynyl)-cyclohexane-1,3-dione (3 g; 0.015 Mole) in dry xylene (15 ml) was allowed to reflux in the presence of anhydrous sodium carbonate (1.6 g; 0.015 Mole) until gas evolution ceased (3 h.). The reaction mixture was then washed with water, dried over magnesium sulfate and the solvent removed under reduced pressure. Distillation afforded 3-methyl-2-(pent-2-ynyl)-cyclopent-2-enone (dehydrojasmone); b.p. 80°-90°/0.001 Torr; 850 mg (35 %).

reactant | 4-Methyl-2-chloro-2-(pent-2-ynyl)-cyclohexane-1,3-dione | 0.015 Mole, 3 g | CC1C(C(C(CC1)=O)(CC#CCC)Cl)=O | C12H15ClO2
reactant | sodium carbonate | 0.015 Mole, 1.6 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | xylene | 15 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 3-methyl-2-(pent-2-ynyl)-cyclopent-2-enone | CC1=C(C(CC1)=O)CC#CCC | C11H14O
